US04684639
(a) 2-(4,5-Dihydroxy-2-fluorophenyl)-N-(2,3-dioxo-4-ethylpiperazin-1-ylcarbonyl)glycine
4-Fluorocatechol (3.06 g., 24 mmole) was added to a suspension of N-(2,3-dioxo-4-ethylpiperazin-1-ylcarbonyl)-2-hydroxyglycine (3.89 g, 15 mmole) in glacial acetic acid (13.5 ml) and concentrated sulphuric acid (1.5 ml). The mixture was stirred overnight, diluted with water (50 ml), adjusted to pH6 with saturated sodium carbonate and washed with ethyl acetate (2×50 ml). The aqueous solution was acidified to pH 2.5 and extracted with ethyl acetate (5×40 ml). The combined extracts were dried and evaporated to give the crude product, 6.10 g, as a foam.

reactant | 4-Fluorocatechol | 24 mmole, 3.06 g | FC=1C=C(C(O)=CC1)O | C6H5FO2
reactant | N-(2,3-dioxo-4-ethylpiperazin-1-ylcarbonyl)-2-hydroxyglycine | 15 mmole, 3.89 g | O=C1N(CCN(C1=O)CC)C(=O)NC(C(=O)O)O | C9H13N3O6
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 13.5 ml | C(C)(=O)O | C2H4O2
solvent | sulphuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 ml | O | H2O
product | 2-(4,5-Dihydroxy-2-fluorophenyl)-N-(2,3-dioxo-4-ethylpiperazin-1-ylcarbonyl)glycine | OC1=CC(=C(C=C1O)C(NC(=O)N1C(C(N(CC1)CC)=O)=O)C(=O)O)F | C15H16FN3O7
